US05151550
A 35% solution of "REDAL" (Trade Mark: sodium bis(2-methoxyethoxy) aluminium hydride in toluene) (5 ml, 1.25 equivalents active hydrogen) was added to a suspension of 1-(4-chlorobenzyl)-2-carboxyl-2-hydroxy-3,3-dimethylcyclopentane (1 g) obtained in Example 1 above at 0°-5° C. The reaction mixture was then heated to 60°-70° C. overnight and worked up by backwashing with 5M hydrochloric acid. The mixture was then reextracted and the phases combined, washed twice with water and the solvent flashed off to give 0.8 g 1-(4-chlorobenzyl)-2-hydroxy-2-hydroxymethyl-3,3-dimethylcyclopentane as a solid, m.pt. 103°-104° C.

reactant | sodium bis(2-methoxyethoxy) aluminium hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | hydrogen | 5 ml, 1.25 equivalents | [H][H] | H2
reactant | hydrochloric acid | 5M | Cl | ClH
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(4-chlorobenzyl)-2-hydroxy-2-hydroxymethyl-3,3-dimethylcyclopentane | 0.8 g | ClC1=CC=C(CC2C(C(CC2)(C)C)(CO)O)C=C1 | C15H21ClO2
